US06821984B2
To a solution of 2-chloro-4,6-dimethylaniline (14.7 g) and diisopropylethylamine (18 mL) in 150 mL of THF, was added a solution of 5-chlorovaleryl chloride (12.2 mL) in 75 mL of THF. After the reaction mixture had been allowed to stir at room temperature overnight, it was filtered and the filtrate concentrated on the rotary evaporator. The residue was dissolved in ethyl acetate and washed with 1 M aqueous HCl, saturated aqueous sodium bicarbonate, and brine. The ethyl acetate solution was then dried with magnesium sulfate and concentrated on the rotary evaporator to give a solid which was combined with a 1:1 mixture of hexane and diethyl ether. After this mixture had been stirred for an hour, it was filtered and the collected solids were dried to provide 12.2 g of 5-chloropentanoic acid (2-chloro-4,6-dimethylphenyl)amide, mp 80.6-82.9° C.

reactant | 2-chloro-4,6-dimethylaniline | 14.7 g | ClC1=C(N)C(=CC(=C1)C)C | C8H10ClN
reactant | diisopropylethylamine | 18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-chlorovaleryl chloride | 12.2 mL | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | hexane | CCCCCC | C6H14
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-chloropentanoic acid (2-chloro-4,6-dimethylphenyl)amide | 12.2 g | ClC1=C(C(=CC(=C1)C)C)NC(CCCCCl)=O | C13H17Cl2NO
